US20010027196A1
2-Amino-4-furan-2-yl-6-(pyridin-2-ylmethoxy)-pyridine-3,5-dicarbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyridine-3,5-dicarbonitrile, 2-(hydroxymethyl)pyridine and DBU in DME. EI-MS m/e (%): 317 (M+, 66), 92 (100), 65 (55).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyridine-3,5-dicarbonitrile | NC1=NC(=C(C(=C1C#N)C=1OC=CC1)C#N)S(=O)C | C12H8N4O2S
reactant | 2-(hydroxymethyl)pyridine | OCC1=NC=CC=C1 | C6H7NO
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-furan-2-yl-6-(pyridin-2-ylmethoxy)-pyridine-3,5-dicarbonitrile | NC1=NC(=C(C(=C1C#N)C=1OC=CC1)C#N)OCC1=NC=CC=C1 | C17H11N5O2
